US04221788
2-(α-cyanobenzylidene)perhydroazepine
Stir 8.1 g of caprolactim methyl ether and 5.0 g of benzyl cyanide with 0.6 g of 1,5-diazabicyclo [5.4.0]undec-5-ene under nitrogen for 48 hours at 130°; distil off any excess benzyl cyanide under a high vacuum, and rub down the thus-produced residue with a little methyl alcohol before filtering to obtain 3.78 g of the title compound. Recrystallize from methyl alcohol to obtain a purer product, MP 108° to 113°.

reactant | caprolactim methyl ether | 8.1 g | COC=1CCCCCN1 | C7H13NO
reactant | benzyl cyanide | 5.0 g | C(C1=CC=CC=C1)C#N | C8H7N
reactant | 1,5-diazabicyclo [5.4.0]undec-5-ene | 0.6 g | N12CCCN=CC2CCCC1 | C9H16N2
product | 2-(α-cyanobenzylidene)perhydroazepine | 3.78 g | C(#N)C(C1=CC=CC=C1)=C1NCCCCC1 | C14H16N2
